US06528525B1
3-[4-[2-[2-(2,2,3,3-Tetrafluoropropoxy)pyridine-5-carbonylamino]ethoxy]phenyl]-2-(4-isopropylphenoxy)-2-methylpropionic acid (exemplification No. 34-43 compound)
In a similar manner to that described in Example 2, ethyl 3-[4-[2-[2-(2,2,3,3-tetrafluoropropoxy)pyridine-5-carbonylamino]ethoxy]phenyl]-2-(4-isopropylphenoxy)-2-methylpropionate (210 mg), which is the product of Example 150, was reacted with aqueous sodium hydroxide solution (1N, 0.51 ml) and the reaction mixture was treated to give the title compound (140 mg) as colorless crystals.

reactant | ethyl 3-[4-[2-[2-(2,2,3,3-tetrafluoropropoxy)pyridine-5-carbonylamino]ethoxy]phenyl]-2-(4-isopropylphenoxy)-2-methylpropionate | 210 mg | FC(COC1=NC=C(C=C1)C(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OCC)(C)OC1=CC=C(C=C1)C(C)C)(C(F)F)F | C32H36F4N2O6
reactant | sodium hydroxide | 1N, 0.51 ml | [OH-].[Na+]
product | 3-[4-[2-[2-(2,2,3,3-Tetrafluoropropoxy)pyridine-5-carbonylamino]ethoxy]phenyl]-2-(4-isopropylphenoxy)-2-methylpropionic acid | 140 mg | FC(COC1=NC=C(C=C1)C(=O)NCCOC1=CC=C(C=C1)CC(C(=O)O)(C)OC1=CC=C(C=C1)C(C)C)(C(F)F)F | C30H32F4N2O6
